US07691882B2
3-(3-(4-(Pyridin-2-yloxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (15 mL) solution of 3-ethynyl-pyridin-2,6-diamine (45 mg, 0.34 mmol) described in Manufacturing Example 13-1-3 and (4-(pyridin-2-yloxy)benzene)-acetohydroximoyl chloride (300 mg, 1.1 mmol) described in Manufacturing Example 209-1-4 was added triethylamine (120 mg, 1.1 mmol), which was stirred for 10 minutes at 60° C. The reaction solution was cooled to room temperature, NH silica gel was added, and the solvent was evaporated under a reduced pressure. The crude product that had adsorbed to the NH silica gel was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1, then ethyl acetate) to obtain the title compound (57 mg, 14%).

reactant | 3-ethynyl-pyridin-2,6-diamine | 0.34 mmol, 45 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | (4-(pyridin-2-yloxy)benzene)-acetohydroximoyl chloride | 1.1 mmol, 300 mg | C(C)(=NO)Cl.N1=C(C=CC=C1)OC1=CC=CC=C1
reactant | triethylamine | 1.1 mmol, 120 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-(Pyridin-2-yloxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 57 mg, 14% | N1=C(C=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C20H17N5O2
